US09120749B2
cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(6-(2-(dimethylamino)ethylamino)pyridin-3-ylamino)quinolin-3-yl)methanone
Following general procedure D, (6-bromo-4-(6-(2-(dimethylamino)ethylamino)pyridine-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone (75 mg, 0.17 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (73 mg, 0.25 mmol) to afford the desired product (24 mg, 26%) as an orange solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.38 (s, 1H), 8.32-8.18 (m, 3H), 8.07 (d, J=9.3 Hz, 1H), 7.86 (dd, J=9.3, 2.6 Hz, 1H), 7.48 (s, 2H), 7.15 (d, J=9.3 Hz, 1H), 3.91 (t, J=6.1 Hz, 2H), 3.49 (t, J=6.1 Hz, 2H), 2.99 (s, 6H), 2.87-2.78 (m, 1H), 1.24-1.18 (m, 4H); ESI MS m/z 536 [C28H27Cl2N5O2+H]+; HPLC 96.5% (AUC), tR=11.28 min.

reactant | (6-bromo-4-(6-(2-(dimethylamino)ethylamino)pyridine-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone | 0.17 mmol, 75 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)NCCN(C)C | C22H24BrN5O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.25 mmol, 73 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(6-(2-(dimethylamino)ethylamino)pyridin-3-ylamino)quinolin-3-yl)methanone | 24 mg, 26% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=CC1)NCCN(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C28H27Cl2N5O2
